US07538101B2
Step 2: 5-Benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid
5-Benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester (47.5 g, 1.0 eq.) and lithium hydroxide (6.56 g, 1.1 eq.) in a mixture of tetrahydofuran (360 mL), water (180 mL) and methanol (120 mL) was refluxed for 2 h then the reaction mixture was concentrated in vacuo. The residue was stirred vigorously in aqueous hydrochloric acid (2N, final pH: 2). The white precipitate was filtered, washed with water then dried in vacuo to yield 41.6 g (96%) of the desired product as white oil. MS (m/e): 308.5 (M−H, 100%).

reactant | 5-Benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid ethyl ester | 47.5 g, 1.0 eq. | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C(C)C | C21H23NO3
reactant | lithium hydroxide | 6.56 g, 1.1 eq. | [OH-].[Li+]
reactant | water | 180 mL | O | H2O
reactant | methanol | 120 mL | CO | CH4O
solvent | tetrahydofuran | 360 mL | O1CCCC1 | C4H8O
product | 5-Benzyloxy-1-isopropyl-1H-indole-2-carboxylic acid | 41.6 g, 96% | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O | C19H19NO3
